US06479531B1
Step a. (±)-3-(3-Amino-phenyl)-2-hydroxy-propionic Acid Tert-butyl Ester
Sodium hydride (60% dispersion in oil) (1.32 g, 33.0 mmol) was added to a solution of 3-nitro-benzaldehyde (4.53 g, 30.0 mmol) and tert-butyl-bromoacetate (4.87 ml, 33.0 mmol) in DMF (100 ml). The resulting suspension was heated at 65° C. for 2 h, cooled, then quenched with water (10 ml). The mixture was diluted with ethyl acetate (100 ml), the organic phase was washed with water (150 ml), brine (2×150 ml), dried (MgSO4) and the solvent was evaporated. The residue was dissolved in dioxan (50 ml) and hydrogenated over palladium on charcoal (10%, 1.00 g) for 24 h. The catalyst was removed by filtration and the solvent was evaporated. The crude product was purified by flash column chromatography (silica, hexane/ethyl acetate 1:1) to afford colourless oil (2.95 g, 41%). 1H NMR (300 MHz, CDCl3) 7.07 (1H, m), 6.60 (3H, m), 4.30 (1H, dd), 3.61 (2H, br s), 3.00 (1H, dd), 2.85 (2H, m), 1.46 (9H, s).

reactant | Sodium hydride | 33.0 mmol, 1.32 g | [H-].[Na+]
reactant | 3-nitro-benzaldehyde | 30.0 mmol, 4.53 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | tert-butyl-bromoacetate | 33.0 mmol, 4.87 ml | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | (±)-3-(3-Amino-phenyl)-2-hydroxy-propionic Acid Tert-butyl Ester | 2.95 g, 41% | C(C)(C)(C)OC(C(CC1=CC(=CC=C1)N)O)=O | C13H19NO3
